US04904750
Tetrakis-(trimethylsilyloxymethyl)methane
163.2 g (1.5 mols) of trimethylchlorosilane and 242.2 g (1.5 mols) of hexamethyldisilazane are added dropwise to a suspension of 136 g (1 mol) of pentaerythritol in 700 ml of toluene at room temperature. The mixture is stirred at room temperature for several hours. The product mixture is subjected to fractional distillation: Boiling point (0.3 mm Hg): 96°-98° C.

reactant | trimethylchlorosilane | 1.5 mols, 163.2 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | hexamethyldisilazane | 1.5 mols, 242.2 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | pentaerythritol | 1 mol, 136 g | OCC(CO)(CO)CO | C5H12O4
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | Tetrakis-(trimethylsilyloxymethyl)methane | C[Si](OCC(CO[Si](C)(C)C)(CO[Si](C)(C)C)CO[Si](C)(C)C)(C)C | C17H44O4Si4
